US06737548B2
In a 100 mL flask equipped with a reflux condenser were placed 2.26 g of 5-nitro-1-tetralone and 60 mL of ethanol. To the mixture was added a solution of hydroxylamine hydrochloride (1.82 g) in water (4.5 mL). The content of the flask was stirred with a stirring bar at reflux for 8 hours. After evaporating the solvent, the residue was purified by column chromatography (eluent: hexane/ethyl acetate=5/1)′ to give 2.2 g of 5-nitro-1-tetralone oxime.

reactant | 5-nitro-1-tetralone | 2.26 g | [N+](=O)([O-])C1=C2CCCC(C2=CC=C1)=O | C10H9NO3
reactant | ethanol | 60 mL | C(C)O | C2H6O
reactant | hydroxylamine hydrochloride | 1.82 g | Cl.NO
solvent | water | 4.5 mL | O | H2O
product | 5-nitro-1-tetralone oxime | 2.2 g | [N+](=O)([O-])C1=C2CCCC(C2=CC=C1)=NO | C10H10N2O3
